US07459472B2
3-Biphenyl-4-yl-2-(S)-(3-bromo-5-chloro-2,6-dimethoxy-benzoylamino)-propionic acid
2-(S)-amino-3-biphenyl-4-yl-propionic acid methyl ester (128 mg, 0.5 mmol) was reacted with 3-bromo-5-chloro-2,6-dimethoxybenzoic acid (148 mg, 0.5 mmol) as described in general procedure A. The resulting compound was hydrolyzed according to general procedure C to afford the title product (209 mg) as a pure white solid.

reactant | 2-(S)-amino-3-biphenyl-4-yl-propionic acid methyl ester | 0.5 mmol, 128 mg | COC([C@H](CC1=CC=C(C=C1)C1=CC=CC=C1)N)=O | C16H17NO2
reactant | 3-bromo-5-chloro-2,6-dimethoxybenzoic acid | 0.5 mmol, 148 mg | BrC=1C(=C(C(=O)O)C(=C(C1)Cl)OC)OC | C9H8BrClO4
product | 3-Biphenyl-4-yl-2-(S)-(3-bromo-5-chloro-2,6-dimethoxy-benzoylamino)-propionic acid | 209 mg | C1(=CC=C(C=C1)C[C@@H](C(=O)O)NC(C1=C(C(=CC(=C1OC)Cl)Br)OC)=O)C1=CC=CC=C1 | C24H21BrClNO5
